US08383821B2
Methyl 5-formyl-2-methoxybenzoate.
5-Formyl salicylic acid (2.0 g, 12.0 mmol), methyl iodide (1.5 mL, 25 mmol) and potassium carbonate (3.06 g, 22.2 mmol) were combined in dimethylformamide (15 mL). After stirring at room temperature for 16 h, the solvent was removed in vacuo and the crude product dissolved in ethyl acetate, washed with water (2×), brine (2×), dried over sodium sulfate, concentrated, and purified by column chromatography to afford 1.85 g (79%). 1H-NMR (CDCl3, 500 MHz) δ 9.91 (s, 1H), 8.31 (d, J=2.1 Hz, 1H), 8.02 (dd, J=8.5, 2.5 Hz, 1H), 7.11 (d, J=8.6 Hz, 1H), 3.99 (s, 3H), 3.91 (s, 3H). Mass spec.: 195.05 (MH)+.

reactant | 5-Formyl salicylic acid | 12.0 mmol, 2.0 g | C(=O)C1=CC=C(C(C(=O)O)=C1)O | C8H6O4
reactant | methyl iodide | 25 mmol, 1.5 mL | CI | CH3I
reactant | potassium carbonate | 22.2 mmol, 3.06 g | C([O-])([O-])=O.[K+].[K+]
reactant | dimethylformamide | 15 mL | CN(C=O)C | C3H7NO
product | Methyl 5-formyl-2-methoxybenzoate | C(=O)C=1C=CC(=C(C(=O)OC)C1)OC | C10H10O4
